US08895583B2
Step B. 1-(4-bromophenyl)-4-cyclopropylpiperidine
A round bottomed flask was charged with 1-bromo-4-fluorobenzene (1.93 g, 11.0 mmol), 4-cyclopropylpiperidine (1.65 g, 13.2 mmol) and DIEA (7.67 g, 44.0 mmol). The flask was purged with nitrogen. Anhydrous 1-methyl-2-pyrrolidinone (25 mL) was added, and the resulting mixture was degassed via nitrogen sparge. The mixture was then placed in a pre-heated oil bath (180° C.), and was held at this temperature for 2 days, whereupon it was allowed to cool to ambient temperature, then was poured into water. The aqueous phase was extracted with ethyl acetate and the organic phase was washed with brine. The organic phase was then dried over anhydrous sodium sulfate and concentrated in vacuo. Purification by chromatography on silica gel (0 to 100% EtOAc in hexanes) provided the title compound: LCMS m/z 281.8 [M+H]+; 1H NMR (500 MHz, CD2Cl2) δ 7.30 (d, J=8.8 Hz, 2 H),6.79 (d, J=8.8 Hz, 2 H),3.62 (d, J=12.2 Hz, 2 H),2.62 (t, J=12.1 Hz, 2 H),1.83 (d, J=12.8 Hz, 2 H),1.56-1.42 (m, 2 H),0.69-0.53 (m, 2 H),0.41 (d, J=7.5 Hz, 2 H),0.11 (d, J=4.5 Hz, 2 H).

reactant | 1-bromo-4-fluorobenzene | 11.0 mmol, 1.93 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | 4-cyclopropylpiperidine | 13.2 mmol, 1.65 g | C1(CC1)C1CCNCC1 | C8H15N
reactant | DIEA | 44.0 mmol, 7.67 g | CCN(C(C)C)C(C)C | C8H19N
product | 1-(4-bromophenyl)-4-cyclopropylpiperidine | BrC1=CC=C(C=C1)N1CCC(CC1)C1CC1 | C14H18BrN
